US08076354B2
Preparation of 1-[3-(7-Acetyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea
To a suspension of 1-[3-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (0.1 g, 0.27 mmol), tributyl-(1-ethoxy-vinyl)-stannane (0.091 ml, 0.27 mmol, 1 equiv), lithium chloride (0.034 g, 0.81 mmol, 3 equiv) in acetonitrile (4 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.031 g, 27.2 μmol, 0.1 equiv). The reaction mixture was degassed by bubbling through N2, heated in the microwave at 150° C. for 20 min and filtered through a glass microfibre filter. To the filtrate was added 2N HCl (3 ml) and the mixture stirred vigorously for 2 h at room temperature, neutralised with saturated aqueous NaHCO3, extracted with CH2Cl2, the organics combined dried (MgSO4) and the solvent removed in vacuo. The residue was purified by preparative LC-MS to give the desired product as a yellow solid. MS: [M+H]+ 377

reactant | 1-[3-(7-Chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.27 mmol, 0.1 g | ClC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C16H12ClF3N4O
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.27 mmol, 0.091 ml, 1 equiv | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | lithium chloride | 0.81 mmol, 0.034 g, 3 equiv | [Cl-].[Li+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 27.2 μmol, 0.031 g, 0.1 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-(7-Acetyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | C(C)(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H15F3N4O2
